US04440940
Preparation of 3-[3-(4-pentadecenylamino)benzoyl]-4-carboethoxythiazolidine
One-tenth mole of 3-(4-pentadecenylamino)benzoyl chloride hydrochloride in methylene chloride is added to a solution of 0.1 mole of ethyl thiazolidine-4-carboxylate in chloroform containing two equivalents of triethylamine. After 5 hours at 20° C. the solution is filtered and evaporated to a white solid which is recrystallized from acetonitrile.

reactant | 3-(4-pentadecenylamino)benzoyl chloride hydrochloride | Cl.C(CCC=CCCCCCCCCCC)NC=1C=C(C(=O)Cl)C=CC1
reactant | ethyl thiazolidine-4-carboxylate | 0.1 mole | S1CNC(C1)C(=O)OCC | C6H11NO2S
reactant | chloroform | two equivalents | C(Cl)(Cl)Cl | CHCl3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-[3-(4-pentadecenylamino)benzoyl]-4-carboethoxythiazolidine | C(CCC=CCCCCCCCCCC)NC=1C=C(C(=O)N2CSCC2C(=O)OCC)C=CC1 | C28H44N2O3S
